US20010056188A1
2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-cyclopentylamino-2-propenenitrile
2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-methylsulfanyl-2-propenenitrile (0.300 g, 0.6 mmol) was stirred in cyclopentylamine (1 ml) for 48 h at 100° C. under nitrogen in a sealed flask. Work up as described in Example 1, 2) gave 51 mg (16%) of the title compound as light brown crystals. 1H NMR (200 MHz, CDCl3): δ=1.43-1.54 (m, 4H), 1.68-1.78 (m, 4H), 3.64 (sextet, 1H), 7.07 (d, 1H), 7.21 (s, 1H), 7.40-7.55 (m, 6H), 7.77 (dd, 2H)

reactant | 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-methylsulfanyl-2-propenenitrile | 0.6 mmol, 0.300 g | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC=C1)C#N | C17H12ClN3O2S2
reactant | cyclopentylamine | 1 ml | C1(CCCC1)N | C5H11N
product | 2-(4-Chlorophenylsulfonyl)-3-(3-cyanophenylamino)-3-cyclopentylamino-2-propenenitrile | 51 mg, 16% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(NC1CCCC1)NC1=CC(=CC=C1)C#N | C21H19ClN4O2S
